*-- pdngen: spice deck generated for chip 'chiplet6' PDN
*-- die chiplet6:  W/H: 0.002/0.002


.subckt chiplet6
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_3_0
+nd_pad_port_3_2
*-- p/g port #: 8/8
+nd_1_0_1000_9000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_1000_1000 0 pwl(0 0.0 4.645e-01ns 0.0  5.145e-01ns 1.2e-02  7.728e-01ns 1.2e-02  8.228e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_1000 nd_1_0_1000_1000_ci 24.7383
cd_0_0_0_0 nd_1_0_1000_1000_ci 0 8.47226e-13
id_0_0_0_1 nd_1_0_3000_1000 0 pwl(0 0.0 6.790e-01ns 0.0  7.290e-01ns 3.5e-02  9.438e-01ns 3.5e-02  9.938e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_1000 nd_1_0_3000_1000_ci 9.68727
cd_0_0_0_1 nd_1_0_3000_1000_ci 0 1.27947e-11
id_0_0_0_2 nd_1_0_5000_1000 0 pwl(0 0.0 4.937e-01ns 0.0  5.437e-01ns 4.5e-03  8.584e-01ns 4.5e-03  9.084e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_1000 nd_1_0_5000_1000_ci 54.9549
cd_0_0_0_2 nd_1_0_5000_1000_ci 0 3.35529e-12
id_0_0_0_3 nd_1_0_7000_1000 0 pwl(0 0.0 3.184e-01ns 0.0  3.684e-01ns 9.3e-02  4.113e-01ns 9.3e-02  4.613e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_1000 nd_1_0_7000_1000_ci 10.4169
cd_0_0_0_3 nd_1_0_7000_1000_ci 0 1.66022e-11
id_0_0_0_4 nd_1_0_9000_1000 0 pwl(0 0.0 2.680e-01ns 0.0  3.180e-01ns 2.5e-02  6.432e-01ns 2.5e-02  6.932e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_1000 nd_1_0_9000_1000_ci 9.59572
cd_0_0_0_4 nd_1_0_9000_1000_ci 0 6.36324e-12
id_0_0_0_5 nd_1_0_1000_3000 0 pwl(0 0.0 6.687e-01ns 0.0  7.187e-01ns 4.2e-02  8.247e-01ns 4.2e-02  8.747e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_3000 nd_1_0_1000_3000_ci 13.6277
cd_0_0_0_5 nd_1_0_1000_3000_ci 0 3.59439e-12
id_0_0_0_6 nd_1_0_3000_3000 0 pwl(0 0.0 1.653e-01ns 0.0  2.153e-01ns 1.4e-02  7.731e-01ns 1.4e-02  8.231e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_3000 nd_1_0_3000_3000_ci 10.3124
cd_0_0_0_6 nd_1_0_3000_3000_ci 0 3.71829e-12
id_0_0_0_7 nd_1_0_5000_3000 0 pwl(0 0.0 5.626e-01ns 0.0  6.126e-01ns 2.1e-02  8.481e-01ns 2.1e-02  8.981e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_3000 nd_1_0_5000_3000_ci 15.1098
cd_0_0_0_7 nd_1_0_5000_3000_ci 0 8.40224e-12
id_0_0_0_8 nd_1_0_7000_3000 0 pwl(0 0.0 5.089e-01ns 0.0  5.589e-01ns 3.0e-02  6.144e-01ns 3.0e-02  6.644e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_3000 nd_1_0_7000_3000_ci 28.4195
cd_0_0_0_8 nd_1_0_7000_3000_ci 0 4.04e-12
id_0_0_0_9 nd_1_0_9000_3000 0 pwl(0 0.0 3.319e-01ns 0.0  3.819e-01ns 4.1e-02  4.287e-01ns 4.1e-02  4.787e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_3000 nd_1_0_9000_3000_ci 22.8676
cd_0_0_0_9 nd_1_0_9000_3000_ci 0 7.67682e-12
id_0_0_0_10 nd_1_0_1000_5000 0 pwl(0 0.0 7.250e-01ns 0.0  7.750e-01ns 8.0e-03  8.672e-01ns 8.0e-03  9.172e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_5000 nd_1_0_1000_5000_ci 78.8116
cd_0_0_0_10 nd_1_0_1000_5000_ci 0 8.0611e-13
id_0_0_0_11 nd_1_0_3000_5000 0 pwl(0 0.0 2.230e-01ns 0.0  2.730e-01ns 9.1e-03  5.882e-01ns 9.1e-03  6.382e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_5000 nd_1_0_3000_5000_ci 27.213
cd_0_0_0_11 nd_1_0_3000_5000_ci 0 5.59456e-12
id_0_0_0_12 nd_1_0_5000_5000 0 pwl(0 0.0 6.237e-01ns 0.0  6.737e-01ns 3.3e-02  7.857e-01ns 3.3e-02  8.357e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_5000 nd_1_0_5000_5000_ci 16.7424
cd_0_0_0_12 nd_1_0_5000_5000_ci 0 2.38347e-12
id_0_0_0_13 nd_1_0_7000_5000 0 pwl(0 0.0 1.225e-01ns 0.0  1.725e-01ns 1.9e-02  4.452e-01ns 1.9e-02  4.952e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_5000 nd_1_0_7000_5000_ci 14.7164
cd_0_0_0_13 nd_1_0_7000_5000_ci 0 2.0353e-12
id_0_0_0_14 nd_1_0_9000_5000 0 pwl(0 0.0 7.380e-02ns 0.0  1.238e-01ns 1.1e-02  3.689e-01ns 1.1e-02  4.189e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_5000 nd_1_0_9000_5000_ci 26.9926
cd_0_0_0_14 nd_1_0_9000_5000_ci 0 4.34487e-12
id_0_0_0_15 nd_1_0_1000_7000 0 pwl(0 0.0 1.841e-02ns 0.0  6.841e-02ns 9.5e-03  5.908e-01ns 9.5e-03  6.408e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_7000 nd_1_0_1000_7000_ci 16.4748
cd_0_0_0_15 nd_1_0_1000_7000_ci 0 1.0763e-11
id_0_0_0_16 nd_1_0_3000_7000 0 pwl(0 0.0 2.898e-01ns 0.0  3.398e-01ns 3.8e-02  3.612e-01ns 3.8e-02  4.112e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_7000 nd_1_0_3000_7000_ci 33.1052
cd_0_0_0_16 nd_1_0_3000_7000_ci 0 4.99658e-12
id_0_0_0_17 nd_1_0_5000_7000 0 pwl(0 0.0 2.334e-01ns 0.0  2.834e-01ns 9.2e-03  6.047e-01ns 9.2e-03  6.547e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_7000 nd_1_0_5000_7000_ci 26.2247
cd_0_0_0_17 nd_1_0_5000_7000_ci 0 5.89566e-12
id_0_0_0_18 nd_1_0_7000_7000 0 pwl(0 0.0 6.366e-01ns 0.0  6.866e-01ns 4.2e-03  7.974e-01ns 4.2e-03  8.474e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_7000 nd_1_0_7000_7000_ci 132.139
cd_0_0_0_18 nd_1_0_7000_7000_ci 0 3.53013e-13
id_0_0_0_19 nd_1_0_9000_7000 0 pwl(0 0.0 5.973e-01ns 0.0  6.473e-01ns 6.3e-02  7.202e-01ns 6.3e-02  7.702e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_7000 nd_1_0_9000_7000_ci 11.6766
cd_0_0_0_19 nd_1_0_9000_7000_ci 0 9.07871e-12
id_0_0_0_20 nd_1_0_1000_9000 0 pwl(0 0.0 8.713e-01ns 0.0  9.213e-01ns 2.1e-04  9.265e-01ns 2.1e-04  9.765e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_9000 nd_1_0_1000_9000_ci 7784.47
cd_0_0_0_20 nd_1_0_1000_9000_ci 0 1.21221e-14
id_0_0_0_21 nd_1_0_3000_9000 0 pwl(0 0.0 8.159e-01ns 0.0  8.659e-01ns 5.7e-03  9.487e-01ns 5.7e-03  9.987e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_9000 nd_1_0_3000_9000_ci 119.921
cd_0_0_0_21 nd_1_0_3000_9000_ci 0 1.51769e-12
id_0_0_0_22 nd_1_0_5000_9000 0 pwl(0 0.0 3.131e-01ns 0.0  3.631e-01ns 4.8e-03  9.053e-01ns 4.8e-03  9.553e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_9000 nd_1_0_5000_9000_ci 31.7
cd_0_0_0_22 nd_1_0_5000_9000_ci 0 4.51354e-12
id_0_0_0_23 nd_1_0_7000_9000 0 pwl(0 0.0 5.826e-01ns 0.0  6.326e-01ns 4.0e-04  9.075e-01ns 4.0e-04  9.575e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_9000 nd_1_0_7000_9000_ci 691.859
cd_0_0_0_23 nd_1_0_7000_9000_ci 0 1.91634e-13
id_0_0_0_24 nd_1_0_9000_9000 0 pwl(0 0.0 5.363e-01ns 0.0  5.863e-01ns 4.4e-02  6.996e-01ns 4.4e-02  7.496e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_9000 nd_1_0_9000_9000_ci 12.6277
cd_0_0_0_24 nd_1_0_9000_9000_ci 0 1.56883e-12

*-- intentional decap
cd_add_cap0 nd_1_0_3000_3000 nd0 'dcap_int_val158'
cd_add_cap1 nd_1_0_7000_3000 nd1 'dcap_int_val159'
cd_add_cap2 nd_1_0_3000_7000 nd2 'dcap_int_val160'
cd_add_cap3 nd_1_0_7000_7000 nd3 'dcap_int_val161'
rd_add0 nd0 0 'esr39'
rd_add1 nd1 0 'esr40'
rd_add2 nd2 0 'esr41'
rd_add3 nd3 0 'esr42'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_5000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_5000  0.001

.ends chiplet6
